US07390908B2
Route 13: 6-{[3,5-Di-(benzyloxy)benzoyl]amino}-N-[2-(dimethylamino)ethyl]nicotinamide
Diisopropylethylamine (DIPEA, 0.23 ml, 1.3 mM) then 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide (EDC, 126 mg, 0.66 mM) were added to a solution of 2-dimethylaminoethylamine (0.57 ml, 0.53 mM) and 6-{[3,5-Di-(benzyloxy)benzoyl]amino}nicotinic acid (0.20 g, 0.44 mM) in dichloromethane (10 ml) under argon at ambient temperature. After 16 hours the reaction mixture was evaporated in vacuo and then chromatographed on SiO2 using a gradient elution of 10 to 25% methanol in dichloromethane. The fractions containing product were evaporated to give a cream solid (0.052 g, 25%); 1H NMR δ (d6-DMSO): 2.67 (6H, s); 3.11 (2H, m); 3.62 (2H, m); 5.18 (4H, s); 6.88 (1H, s); 7.27-7.52 (12H, br m); 8.18-8.36 (2H, m); 8.90 (1H, s); 10.20 (1H, br s).

reactant | Diisopropylethylamine | 1.3 mM, 0.23 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-(3-dimethylaminopropyl)-3-ethyl-carbodiimide | 0.66 mM, 126 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 2-dimethylaminoethylamine | 0.53 mM, 0.57 ml | CN(CCN)C | C4H12N2
reactant | 6-{[3,5-Di-(benzyloxy)benzoyl]amino}nicotinic acid | 0.44 mM, 0.20 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NC=C(C(=O)O)C=C2)C=C(C1)OCC1=CC=CC=C1 | C27H22N2O5
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-{[3,5-Di-(benzyloxy)benzoyl]amino}-N-[2-(dimethylamino)ethyl]nicotinamide | 0.052 g, 25% | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=NC=C(C(=O)NCCN(C)C)C=C2)C=C(C1)OCC1=CC=CC=C1 | C31H32N4O4
